US07456176B2
Synthesis of Acetic acid 4-chloro-3-{5-methyl-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-benzo[1,2,4]triazin-7-yl}-phenyl ester
To a solution of 4-chloro-3-{5-methyl-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-benzo[1,2,4]triazin-7-yl}-phenol hydrochloride (1.0 equiv., 0.978 mmol) in DCM (30 mL) was added neat Et3N (10 equiv., 4.89 mmol) under an argon rich atmosphere and stirred for 10 minutes. Neat Acetyl chloride (1.2 equiv., 1.17 mmol) was added dropwise via syringe to the reaction mixture and allowed to stir at room temperature for 24 h. The reaction was quenched using saturated NaHCO3; the organics were dried over Na2SO4 and then concentrated down under reduced pressure. The resulting crude solid was then brought up in DCM and purified by flash chromatography using a solvent system of 85:10:5 (v/v/v) DCM/MeOH/Et3N. The fractions were concentrated under reduced pressure and precipitated out using 1:5 (v/v) DCM/hexanes to afford an orange solid (409.1 mg, 75% yield). 1H NMR (DMSO-d6): δ 1.68 (m, 4H), 2.29 (s, 3H), 2.51 (m, 4H), 2.63 (s, 3H), 2.78 (t, J=5.94 Hz, 2H), 4.07 (t, J=5.99 Hz, 2H), 6.99 (dd, J=7.05 Hz, 12.55 Hz, 2H), 7.27 (dd, J=5.90 Hz, 8.75 Hz, 1H), 7.41 (d, J=2.80 Hz, 1H), 7.67 (d, J=8.75 Hz, 1H), 7.85 (m, 1H), 7.93 (d, J=9.05 Hz, 2H), 8.17 (m, 1H), 10.83 (s, 1H). Rf=0.29 MS (ES+) m/z 520, LC retention time 2.57 minutes.

reactant | 4-chloro-3-{5-methyl-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-benzo[1,2,4]triazin-7-yl}-phenol hydrochloride | 0.978 mmol, 1.0 equiv. | Cl.ClC1=C(C=C(C=C1)O)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)OCCN2CCCC2)C(=C1)C
reactant | Et3N | 4.89 mmol, 10 equiv. | CCN(CC)CC | C6H15N
reactant | Acetyl chloride | 1.17 mmol, 1.2 equiv. | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-chloro-3-{5-methyl-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-benzo[1,2,4]triazin-7-yl}-phenyl ester | 409.1 mg, 75% yield | ClC1=C(C=C(C=C1)OC(C)=O)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)OCCN2CCCC2)C(=C1)C | C28H28ClN5O3
